US08859553B2
6-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-isopropylpyridazin-3-amine
The title compound was synthesized from N-isopropyl-6-ethynylpyridazin-3-amine and 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole in a manner similar to that described for in Example 1. The title compound was obtained as a khaki solid. Mp: 127-128° C.; 1H NMR (300 MHz, CDCl3) δ: 8.11-8.13 (1H, d, J=6.0 Hz), 7.82 (1H, s), 7.64 (2H, m), 7.53 (1H, s), 7.35-7.38 (1H, d, J=9.0 Hz), 7.29-7.32 (1H, d, J=9.0 Hz), 6.66-6.69 (1H, d, J=9.0 Hz), 5.22 (1H, s), 4.12-4.14 (1H, m), 3.62 (2H, s), 2.51 (8H, brs), 2.31 (3H, s), 1.25-1.31 (6H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C28H31ClN7: 500.2324. found: 500.2313.

reactant | N-isopropyl-6-ethynylpyridazin-3-amine | C(C)(C)NC=1N=NC(=CC1)C#C | C9H11N3
reactant | 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)I | C19H20ClIN4
product | 6-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-isopropylpyridazin-3-amine | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)C#CC2=CC=C(N=N2)NC(C)C | C28H30ClN7
